US07847074B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene
0.77 mL of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran are added to a solution of 0.55 g 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(triisopropylsilylet hynyl-benzyl)-benzene in 2 mL tetrahydrofuran. The solution is stirred for 1 h at ambient temperature. Then 4 mL methanol and 0.85 mL 4 M potassium hydroxide solution are added and the resultant solution is stirred for a further hour at ambient temperature. The solution is neutralized with 1 M hydrochloric acid and then the methanol is evaporated off. The residue is combined with aqueous sodium chloride solution and extracted with ethyl acetate. The combined organic extracts are dried over sodium sulfate, and the solvent is removed. The residue is chromatographed on silica gel (dichloromethane/methanol 19:1→2:1).

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-(triisopropylsilylet hynyl-benzyl)-benzene | 0.55 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C(C1=CC=CC=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C38H49ClO10Si
reactant | potassium hydroxide | 4 M, 0.85 mL | [OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#C | C21H21ClO6
